US06673800B2
Preparation of 1-[Bis(4-fluorophenyl)methyl]-4-{3-[3-(3-nitrophenyl)4,5-dihydroisoxazol-5-yl]propyl}piperazine
3-[3-(3-Nitrophenyl)-4,5-dihydroisoxazol-5-yl]propanal (19.3 mg, 0.077 mmol), 1-[bis(4-fluorophenyl)methyl]piperazine (20.4 mg, 0.070 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (45.0 mg, 0.212 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 23.8 mg (64.7%) of the target compound was obtained.

reactant | 3-[3-(3-Nitrophenyl)-4,5-dihydroisoxazol-5-yl]propanal | 0.077 mmol, 19.3 mg | [N+](=O)([O-])C=1C=C(C=CC1)C1=NOC(C1)CCC=O | C12H12N2O4
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | 0.070 mmol, 20.4 mg | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | NaBH(OAc)3 | 0.212 mmol, 45.0 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[Bis(4-fluorophenyl)methyl]-4-{3-[3-(3-nitrophenyl)4,5-dihydroisoxazol-5-yl]propyl}piperazine | 23.8 mg, 64.7% | FC1=CC=C(C=C1)C(N1CCN(CC1)CCCC1CC(=NO1)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C29H30F2N4O3
